US04826866
5-Methyl-3-(4-morpholinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1]
A stirred slurry of 6.3 g (0.039 mole) of 4-morpholinecarbothioic acid hydrazide in 75 mL of absolute ethanol under nitrogen atmosphere was treated with 6.43 g (0.039 mole) of ethyl 2-chloroacetoacetate and the exothermic reaction mixture stirred at ambient temperature for 18 hr. The major portion of reaction mixture solids were dissolved by heating to reflux, the sulfur residue removed by filtration and the filtrate concentrated in vacuo to a solid, which was crystallized from 2-propyl alcohol to yield 5.5 g of white crystalline needles, mp 165°-173° C., as the hydrochloride salt.

reactant | 4-morpholinecarbothioic acid hydrazide | 0.039 mole, 6.3 g | N1(CCOCC1)C(=S)NN | C5H11N3OS
reactant | ethyl 2-chloroacetoacetate | 0.039 mole, 6.43 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 5-Methyl-3-(4-morpholinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 5.5 g | Cl.CC1=C(C(=NN1)N1CCOCC1)C(=O)OCC | InChI=1S/C11H17N3O3.ClH/c1-3-17-11(15)9-8(2)12-13-10(9)14-4-6-16-7-5-14;/h3-7H2,1-2H3,(H,12,13);1H
